US07700774B2
Step (v): Preparation of 2-Ethyl-6,8-dimethyl-4-oxo-3,4-dihydro-2H-[1,7]naphthyridine-1-carboxylic acid benzyl ester
This compound can be obtained by reacting a solution of 2-ethyl-6,8-dimethyl-4-oxo-3,4-dihydro-2H-[1,7]naphthyridine-1,3-dicarboxylic acid 1-benzyl ester 3-methyl ester, in ethanol, with 2N NaOH at reflux temperature, for a time period from about 0.5 h to about 2 h, followed by a typical workup.

reactant | 2-ethyl-6,8-dimethyl-4-oxo-3,4-dihydro-2H-[1,7]naphthyridine-1,3-dicarboxylic acid 1-benzyl ester 3-methyl ester | COC(=O)C1C(N(C2=C(N=C(C=C2C1=O)C)C)C(=O)OCC1=CC=CC=C1)CC | C22H24N2O5
reactant | NaOH | 2N | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2-Ethyl-6,8-dimethyl-4-oxo-3,4-dihydro-2H-[1,7]naphthyridine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1C(CC(C2=CC(=NC(=C12)C)C)=O)CC | C20H22N2O3
